US05043094
0.26 g of 55% sodium hydride was mixed with 5 ml of DMF and 0.85 g of 4-phenylphenol was added dropwise thereto. After the completion of the reaction, 1.42 g of optically active (R,R)-2,4-pentanediol monotosylate in 5 ml of DMF was added dropwise thereto. After reacting at 90° C. for three hours, the reaction mixture was treated in a conventional manner. Then it was purified by silica gel column chromatography with the use of a mixture of n-hexane with ethyl acetate (7/3) as a developing solvent. Thus 0.77 g of optically active (S,S)-2-(4'-phenylphenoxy)pentan-4-ol was obtained. Separately, 0.08 g of 55% sodium hydride was mixed with 3 ml of DMF and a solution of 0.49 g of 5-n-decylpyrimidine in 3 of DMF was added dropwise thereto. Then a solution of 0.71 g of the (S,S)-2-(4'-phenylphenoxy)pentane-4-ol tosylate obtained above in 3 ml of DMF was added dropwise thereto and the obtained mixture was stirred at 90° C. for five hours. After cooling, the reaction mixture was poured into 100 ml of ice/water, extracted with ethyl ether, dried and freed of the solvent. The residue was then purified by silica gel column chromatography with the use of a mixture of n-hexane with ethyl acetate (8/2) as a developing solvent. Thus 0.82 g of optically active (s,S)-2-(4'-phenylphenoxy)-4-[4'-(5"-dicylpyrimidin-2"-yl)phenoxy]pentane was obtained.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 4-phenylphenol | 0.85 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | (R,R)-2,4-pentanediol monotosylate | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@H](C)C[C@@H](C)O | C12H18O4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S,S)-2-(4'-phenylphenoxy)pentan-4-ol | C1(=CC=CC=C1)C1=CC=C(O[C@@H](C)C[C@H](C)O)C=C1 | C17H20O2
